US05968985
To a cold (-78° C.) solution of 1-bromo-3,5-dichlorobenzene (14 g) and triisopropoxyborane (20.8 ml) in tetrahydrofuran (140 ml) was added dropwise n-butyllithium in hexane (1.66 M, 52.3 ml). The mixture was stirred at -78° C. for one hour and warmed to room temperature over two hours. The reaction mixture was poured onto 2M hydrochloric acid solution (120 ml) and stirred for 10 minutes. The product was extracted with ether (200 ml) 3 times, and the organic layers were combined, washed with brine, dried over magnesium sulfate and evaporated in vacuo. To the residue was added petroleum ether and the crystalline was collected, washed with petroleum ether and dried to give 3,5-dichlorophenyl-dihydroxyborane.

reactant | 1-bromo-3,5-dichlorobenzene | 14 g | BrC1=CC(=CC(=C1)Cl)Cl | C6H3BrCl2
reactant | triisopropoxyborane | 20.8 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | hydrochloric acid | 2M, 120 ml | Cl | ClH
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.66 M, 52.3 ml | CCCCCC | C6H14
product | 3,5-dichlorophenyl-dihydroxyborane | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
